US08420670B2
(3,4-Dichlorobenzyl)-(8-methanesulfinyl-2-methylquinolin-4-yl)-amine
H2O2 (30%, 20.0 mg, 0.55 mmole) was added dropwise to a solution of (3,4-dichlorobenzyl)-(2-methyl-8-methylsulfanylquinolin-4-yl)-amine (100 mg, 0.275 mmole) in acetic acid (3.5 mL) at 0° C. The mixture was stirred at RT for 16 hrs, concentrated by half, 2N NaOH was added and the resulting mixture was extracted with ethyl acetate. The organic phases were dried and concentrated. Precipitation in isopropyl ether gave the product as a white solid (37 mg, 35%).

reactant | H2O2 | 0.55 mmole, 20.0 mg | OO | H2O2
reactant | (3,4-dichlorobenzyl)-(2-methyl-8-methylsulfanylquinolin-4-yl)-amine | 0.275 mmole, 100 mg | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)SC)C)C=CC1Cl | C18H16Cl2N2S
solvent | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
product | (3,4-Dichlorobenzyl)-(8-methanesulfinyl-2-methylquinolin-4-yl)-amine | 37 mg, 35% | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)S(=O)C)C)C=CC1Cl | C18H16Cl2N2OS
